US06127354
To a solution of N'-benzylhydrazinecarboxylic acid tert-butyl ester (2.5 g, 11.8 mmol) in 99% ethanol (40 ml) was added ethyl isocyanate (1.1 g, 15.2 mmol) and the mixture was stirred for 2 h. Then the mixture was concentrated in vacuo and chromatographed on silica (20 g) with petrol ether/ethyl acetate 3:2 to give 3.0 g of 2-benzyl-1-tert-butoxycarbonyl-4-ethylsemicarbazide.

reactant | N'-benzylhydrazinecarboxylic acid tert-butyl ester | 11.8 mmol, 2.5 g | C(C)(C)(C)OC(=O)NNCC1=CC=CC=C1 | C12H18N2O2
reactant | ethyl isocyanate | 15.2 mmol, 1.1 g | C(C)N=C=O | C3H5NO
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-benzyl-1-tert-butoxycarbonyl-4-ethylsemicarbazide | 3.0 g | C(C1=CC=CC=C1)N(NC(=O)OC(C)(C)C)C(=O)NCC | C15H23N3O3
